US06080773
A mixture of 2 g of 4-bromo-3-fluorotoluene, 1.75 g of 2-formylbenzeneboronic acid, 0.36 g of tetrakis(triphenylphosphine)-palladium (0) and 11.6 ml of 2N aqueous sodium carbonate, in 50 ml of a 9:1 mixture of toluene-ethanol was heated to 100° C. for 3 h. The mixture was cooled to room temperature, diluted with 100 ml of methylene chloride and washed with 50 ml of 5% sodium bicarbonate containing 5 ml of 0.880 ammonia. The organic layer was dried over sodium sulfate and evaporated to dryness under reduced pressure. The resulting oil was purified by chromatography on silica gel eluting with ethyl acetate-heptane (1:3) to give 1.62 g of 2-(2-fluoro-4-methylphenyl)benzaldehyde as an oil, GC-M.S. (E.I.) (M/Z): 214 [M+ ].

reactant | 4-bromo-3-fluorotoluene | 2 g | BrC1=C(C=C(C=C1)C)F | C7H6BrF
reactant | 2-formylbenzeneboronic acid | 1.75 g | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | sodium carbonate | 2N, 11.6 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene-ethanol | C=1(C(=CC=CC1)CCO)C | C9H12O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)-palladium (0) | 0.36 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(2-fluoro-4-methylphenyl)benzaldehyde | 1.62 g | FC1=C(C=CC(=C1)C)C1=C(C=O)C=CC=C1 | C14H11FO
